US07074799B2
To a mixture of diisopropylethylamine (260 mg, 2.0 mmol) in acetonitrile (5 mL), add t-butylaniline (124 mg, 1.0 mmol) followed by (4-tert-Butyl-phenyl)-[2-chloro-7-(2-trifluoromethyl-phenyl)-pyrido[2,3-d]pyrimidin-4-yl]-amine (310 mg, 1.0 mmol). Heat the mixture to 80° C. for six hours. Evaporate the solvent, and partition between 1M NaOH and EtOAc. Dry the solvent (Na2SO4) and evaporate. Purify by silica gel chromatography (1:1 hexanes/EtOAc to furnish the monoaniline (4-tert-Butyl-phenyl)-[2-chloro-7-(2-trifluoromethyl-phenyl)-pyrido[2,3-d]pyrimidin-4-yl]-amine as a yellow solid.

reactant | diisopropylethylamine | 2.0 mmol, 260 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | t-butylaniline | 1.0 mmol, 124 mg | C(C)(C)(C)NC1=CC=CC=C1 | C10H15N
reactant | (4-tert-Butyl-phenyl)-[2-chloro-7-(2-trifluoromethyl-phenyl)-pyrido[2,3-d]pyrimidin-4-yl]-amine | 1.0 mmol, 310 mg | C(C)(C)(C)C1=CC=C(C=C1)NC=1C2=C(N=C(N1)Cl)N=C(C=C2)C2=C(C=CC=C2)C(F)(F)F | C24H20ClF3N4
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | monoaniline (4-tert-Butyl-phenyl)-[2-chloro-7-(2-trifluoromethyl-phenyl)-pyrido[2,3-d]pyrimidin-4-yl]-amine | C(C)(C)(C)C1=CC=C(C=C1)NC=1C2=C(N=C(N1)Cl)N=C(C=C2)C2=C(C=CC=C2)C(F)(F)F.NC2=CC=CC=C2 | InChI=1S/C24H20ClF3N4.C6H7N/c1-23(2,3)14-8-10-15(11-9-14)29-20-17-12-13-19(30-21(17)32-22(25)31-20)16-6-4-5-7-18(16)24(26,27)28;7-6-4-2-1-3-5-6/h4-13H,1-3H3,(H,29,30,31,32);1-5H,7H2
